US07932393B2
Step B Synthesis of [(6-chloro(3-pyridyl))methyl]{2-[(4-methoxyphenyl)methylthio]-ethyl}(2-methylpropyl)amine as an Intermediate
This compound was made in a manner analogous to that set forth in Step A of Example 3, using 2.0 grams (0.0062 mole) of [(6-chloro(3-pyridyl))methyl]{2-[(4-methoxyphenyl)methylthio]ethyl}-amine, 0.45 gram (0.0062 mole) of isobutyraldehyde, 2.0 gram (0.0093 mole) of sodium triacetoxyborohydride and 1.5 grams (0.0124 mole) of magnesium sulfate in 40 mL of 1,2-dichloroethane. The yield of the subject compound after one column chromatography purification on silica gel, eluting with a mixture of ethyl acetate and hexanes, was 2.05 grams. The NMR spectrum was consistent with the proposed structure.

reactant | [(6-chloro(3-pyridyl))methyl]{2-[(4-methoxyphenyl)methylthio]ethyl}-amine | 0.0062 mole, 2.0 grams | ClC1=CC=C(C=N1)CNCCSCC1=CC=C(C=C1)OC | C16H19ClN2OS
reactant | isobutyraldehyde | 0.0062 mole, 0.45 gram | C(C(C)C)=O | C4H8O
reactant | sodium triacetoxyborohydride | 0.0093 mole, 2.0 gram | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | magnesium sulfate | 0.0124 mole, 1.5 grams | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | [(6-chloro(3-pyridyl))methyl]{2-[(4-methoxyphenyl)methylthio]-ethyl}(2-methylpropyl)amine | ClC1=CC=C(C=N1)CN(CC(C)C)CCSCC1=CC=C(C=C1)OC | C20H27ClN2OS
